US06169091A
6-[N-Methyl-N-(2-dimethylaminoethyl)amino]-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine
Prepared according to Procedure C from 6-chloro-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine and N,N,N′-trimethylethylenediamine; δH (CDCl3) 8.92 (1H,s), 8.69 (1H,s), 8.49 (1H,s), 7.80-8.05 (6H,m), 7.38-7.60 (3H,m), 6.79 (1H,s), 3.68 (2H,t), 3.42 (3H,s), 2.51 (1H,t), 2.29 (6H,s); m/z (M+1)+463.

reactant | 6-chloro-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine | ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C=N1 | C19H13ClN4O2S
reactant | N,N,N′-trimethylethylenediamine | CN(CCNC)C | C5H14N2
product | 6-[N-Methyl-N-(2-dimethylaminoethyl)amino]-4-(4-phenylsulphonylanilino)-pyrido[3,4-d]pyrimidine | CN(CCN(C)C)C1=CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C=N1 | C24H26N6O2S
